US08242145B2
Step 3: {3-[2-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-pyridin-2-yl-phenoxy]-phenyl}-acetic acid ethyl ester
{3-[2-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-phenyl}-acetic acid ethyl ester (0.1 g, 0.18 mmol), 2-bromopyridine (0.042 g, 0.26 mmol), potassium carbonate (0.061 g, 0.44 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.020 g, 0.02 mmol) were combined in 2:1 DME:H2O (4 mL) and degassed with N2 for 10 minutes. The reaction was then heated to 90° C. for 3.5 hours. The mixture was neutralized to pH 6 with 10% aqueous HCl and extracted with EtOAc. The crude material was purified by silica gel chromatography to give the desired product.

reactant | {3-[2-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-phenyl}-acetic acid ethyl ester | 0.18 mmol, 0.1 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C33H38BNO7
reactant | 2-bromopyridine | 0.26 mmol, 0.042 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 0.44 mmol, 0.061 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 0.020 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | COCCOC | C4H10O2
product | {3-[2-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-pyridin-2-yl-phenoxy]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C1=NC=CC=C1)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C32H30N2O5
